US09062028B2
Step C. Ethyl 2-((4-nitrophenoxy)carbonyloxy)acetate
The title compound was prepared using a procedure analogous to 3-bromobenzyl 4-nitrophenyl carbonate except that (3-bromophenyl)methanol was replaced with ethyl 2-hydroxyacetate. LCMS, [M+Na]+=292.0. 1H NMR (400 MHz, CDCl3) δ 8.24 (d, J=9.2 Hz, 2H), 7.37 (d, J=9.2 Hz, 2H), 4.72 (s, 2H), 4.25 (q, J=7.2 Hz, 2H), 1.28 (t, J=7.1 Hz, 3H).

reactant | 3-bromobenzyl 4-nitrophenyl carbonate | C(OCC1=CC(=CC=C1)Br)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H10BrNO5
reactant | (3-bromophenyl)methanol | BrC=1C=C(C=CC1)CO | C7H7BrO
reactant | ethyl 2-hydroxyacetate | OCC(=O)OCC | C4H8O3
product | Ethyl 2-((4-nitrophenoxy)carbonyloxy)acetate | [N+](=O)([O-])C1=CC=C(OC(=O)OCC(=O)OCC)C=C1 | C11H11NO7
